### PR TITLE
[Merged by Bors] - feat(*/Equiv/*): Add `symm_bijective` lemmas next to `symm_symm`s

### PR DESCRIPTION
**Pull request by wrenna-robson**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/PEquiv.lean [hunk 1]
```diff
@@ -135,8 +135,11 @@ theorem symm_refl : (PEquiv.refl α).symm = PEquiv.refl α :=
 theorem symm_symm (f : α ≃. β) : f.symm.symm = f := by cases f; rfl
 #align pequiv.symm_symm PEquiv.symm_symm
 
+theorem symm_bijective : Function.Bijective (symm : α ≃. β → β ≃. α) :=
+  Equiv.bijective ⟨PEquiv.symm, PEquiv.symm, symm_symm, symm_symm⟩
```
Comment (eric-wieser) [inline Mathlib/Data/PEquiv.lean:139]: nit: please write this as the longer 
```suggestion
  Equiv.bijective { toFun := PEquiv.symm, infFun := PEquiv.symm, left_inv := symm_symm, right_inv := symm_symm }
```
as this is more robust to future refactors of field layouts

Comment (linesthatinterlace) [reply Mathlib/Data/PEquiv.lean:139]: I assume you'd like me to fix this in the existing manifestastions of this lemma (which use this layout?)

Actually it may be better to use `bijective_iff_has_inverse` because that is equivalent and in some sense avoids this strange "create an Equiv just to say that it is bijective" construction. I would make that change everywhere. (Basically the core reason this is true is "symm_symm", "symm_symm (the other way round)", "thus, bijective" and so these are just different ways of spelling that.)

What do you think?

Comment (eric-wieser) [reply Mathlib/Data/PEquiv.lean:139]: Using `bijective_iff_has_inverse` sounds good, that save you one repetition of the word `symm`

File: Mathlib/Algebra/Lie/Basic.lean [hunk 2]
```diff
@@ -633,6 +633,9 @@ theorem symm_symm (e : L₁ ≃ₗ⁅R⁆ L₂) : e.symm.symm = e := by
   rfl
 #align lie_equiv.symm_symm LieEquiv.symm_symm
 
+theorem symm_bijective : Function.Bijective (LieHom.symm : L₁ ≃ₗ⁅R⁆ L₂ → L₂ ≃ₗ⁅R⁆ L₁) :=
```
Comment (eric-wieser) [inline Mathlib/Algebra/Lie/Basic.lean:636]:
```suggestion
theorem symm_bijective : Function.Bijective (LieEquiv.symm : L₁ ≃ₗ⁅R⁆ L₂ → L₂ ≃ₗ⁅R⁆ L₁) :=
```

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!

**Comment by linesthatinterlace** [comment]
@eric-wieser am I now allowed to ask Bors to merge this?
